US09126972B2
8.1: 2-Amino-7-(3-chloro-4-hydroxy-phenyl)-1-ethyl-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-[1,8]naphthyridin-4-one
In a round bottom flask 0.3 g (0.71 mmol) 2-amino-7-chloro-1-ethyl-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-[1,8]naphthyridin-4-one, 0.185 g (1.07 mmol) 3-chloro-4-hydroxy-phenylboronic acid, 0.098 g (0.11 mmol) tris-(dibenzylidenacetone)dipalladium (0), 0.030 mg (0.0.11 mmol) tricyclohexyl phosphine, 0.303 g of potassium phosphate tribasic, and 8 mL of dioxane/water (50/50) (degassed) were stirred and heated at 85° C. for 8 h. The solvents were evaporated and the residue was purified by column chromatography (DCM/MeOH: 9/1) to yield 0.4 g of a brown solid. This solid was engaged without further purification in the next step.

reactant | 2-amino-7-chloro-1-ethyl-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-[1,8]naphthyridin-4-one | 0.71 mmol, 0.3 g | NC=1N(C2=NC(=CC=C2C(C1C=1N(C=CN1)COCC[Si](C)(C)C)=O)Cl)CC | C19H26ClN5O2Si
reactant | 3-chloro-4-hydroxy-phenylboronic acid | 1.07 mmol, 0.185 g | ClC=1C=C(C=CC1O)B(O)O | C6H6BClO3
reactant | potassium phosphate tribasic | 0.303 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | tricyclohexyl phosphine | 0.030 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | dioxane water | 8 mL | O1CCOCC1.O
product | 2-Amino-7-(3-chloro-4-hydroxy-phenyl)-1-ethyl-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-[1,8]naphthyridin-4-one | 0.4 g | NC=1N(C2=NC(=CC=C2C(C1C=1N(C=CN1)COCC[Si](C)(C)C)=O)C1=CC(=C(C=C1)O)Cl)CC | C25H30ClN5O3Si
